US05223498
A mixture of 4-(2-amino-4-methoxycarbonylphenyl)morpholine (2.7 g), N,N-dimethyl cyanamide (1 g) and m-cresol (15 ml) was heated at 90°-95° C. for 10 hours. Ice was added and the reaction mixture acidified to pH 4 by the addition of 2N hydrochloric acid and the resultant mixture extracted with ether. The aqueous layer was cooled, basified to pH 8 by the addition of solid sodium bicarbonate and then extracted with dichloromethane. The extract was dried and the solvent removed to yield an oily residue which was purified by chromatography on a neutral alumina column eluted with a 1:99 mixture of methanol and dichloromethane to give 1,1-dimethyl-2-(5-methoxycarbonyl-2-morpholinophenylguanidine (m.p. 152°-154° C.).

reactant | 4-(2-amino-4-methoxycarbonylphenyl)morpholine | 2.7 g | NC1=C(C=CC(=C1)C(=O)OC)N1CCOCC1 | C12H16N2O3
reactant | N,N-dimethyl cyanamide | 1 g | CN(C#N)C | C3H6N2
reactant | m-cresol | 15 ml | C1=C(C=CC=C1O)C | C7H8O
reactant | hydrochloric acid | 2N | Cl | ClH
product | 5-methoxycarbonyl-2-morpholinophenylguanidine | COC(=O)C=1C=CC(=C(C1)NC(=N)N)N1CCOCC1 | C13H18N4O3
